*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.5
* < ILD_dielectric_const = 4.5
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_0 1 2 3 4 REF
C_C1 1 REF 0.3493387321881pf
C_C2 1 2 16.653346409886pf
C_C3 1 4 0.2306247223335pf
C_C4 2 REF 0.5563157082189pf
C_C5 2 3 0.1144133508523pf
C_C6 3 REF 0.3920399413559pf
C_C7 3 4 6.9125341354836pf
C_C8 4 REF 0.3827592884576pf
L_L1 3 5 1.3110324684217nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_1 1 2 3 4 REF
C_C1 1 REF 0.3575686623956pf
C_C2 1 2 16.754142879163pf
C_C3 1 4 0.2305083133968pf
C_C4 2 REF 0.5673916489906pf
C_C5 2 3 0.1123453958346pf
C_C6 3 REF 0.3919623530834pf
C_C7 3 4 5.0953884658543pf
C_C8 4 REF 0.3823711951921pf
L_L1 3 5 1.3125258849537nh
R_RL1 5 4 3.2558642488e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_2 1 2 3 4 REF
C_C1 1 REF 0.3544873815233pf
C_C2 1 2 16.883633638451pf
C_C3 1 4 0.2309476957259pf
C_C4 2 REF 0.5675565396273pf
C_C5 2 3 0.1111077720001pf
C_C6 3 REF 0.3915205463499pf
C_C7 3 4 3.831005331683pf
C_C8 4 REF 0.3823691433033pf
L_L1 3 5 1.313765290814nh
R_RL1 5 4 2.0116603991e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_3 1 2 3 4 REF
C_C1 1 REF 0.3440063509133pf
C_C2 1 2 17.088110321893pf
C_C3 1 4 0.2322454649666pf
C_C4 2 REF 0.5616942256054pf
C_C5 2 3 0.110332036539pf
C_C6 3 REF 0.3908185366829pf
C_C7 3 4 2.7477562918778pf
C_C8 4 REF 0.3826054529806pf
L_L1 3 5 1.3150138743822nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_4 1 2 3 4 REF
C_C1 1 REF 0.3297184303279pf
C_C2 1 2 17.389300319466pf
C_C3 1 3 0.0103942835298pf
C_C4 1 4 0.2347357133895pf
C_C5 2 REF 0.5536003075469pf
C_C6 2 3 0.1101193604807pf
C_C7 3 REF 0.3900376884725pf
C_C8 3 4 1.8842588188789pf
C_C9 4 REF 0.3829737032574pf
L_L1 3 5 1.3162543548618nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_5 1 2 3 4 REF
C_C1 1 REF 0.3168987542051pf
C_C2 1 2 17.757123166695pf
C_C3 1 3 0.0106723545576pf
C_C4 1 4 0.2382282467948pf
C_C5 2 REF 0.5477305517248pf
C_C6 2 3 0.110484709187pf
C_C7 3 REF 0.3894258606547pf
C_C8 3 4 1.3166375203647pf
C_C9 4 REF 0.3833129641259pf
L_L1 3 5 1.317248907569nh
R_RL1 5 4 -2.366216358e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_6 1 2 3 4 REF
C_C1 1 REF 0.3064687913146pf
C_C2 1 2 18.195083459408pf
C_C3 1 3 0.0103136706188pf
C_C4 1 4 0.2426908995665pf
C_C5 2 REF 0.5450264239751pf
C_C6 2 3 0.1113111475899pf
C_C7 3 REF 0.3889935872689pf
C_C8 3 4 0.9305420313751pf
C_C9 4 REF 0.3835779907052pf
L_L1 3 5 1.3180592796337nh
R_RL1 5 4 -3.556551565e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_7 1 2 3 4 REF
C_C1 1 REF 0.2969445225793pf
C_C2 1 2 18.806137015397pf
C_C3 1 4 0.2491767029993pf
C_C4 2 REF 0.5456434834248pf
C_C5 2 3 0.1128104981352pf
C_C6 3 REF 0.3886776312486pf
C_C7 3 4 0.62491590591pf
C_C8 4 REF 0.3837889742856pf
L_L1 3 5 1.3188163002507nh
R_RL1 5 4 -4.681741666e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_8 1 2 3 4 REF
C_C1 1 REF 0.2883075006823pf
C_C2 1 2 19.635085068317pf
C_C3 1 4 0.2581700192072pf
C_C4 2 REF 0.5500730262404pf
C_C5 2 3 0.1151522986522pf
C_C6 3 REF 0.3884836647606pf
C_C7 3 4 0.3917042052473pf
C_C8 4 REF 0.3839292206408pf
L_L1 3 5 1.319522699908nh
R_RL1 5 4 -5.674523891e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_9 1 2 3 4 REF
C_C1 1 REF 0.2797983800346pf
C_C2 1 2 20.771319674714pf
C_C3 1 4 0.2706261470538pf
C_C4 2 REF 0.5586931058828pf
C_C5 2 3 0.1186633692389pf
C_C6 3 REF 0.3883920254107pf
C_C7 3 4 0.2216943155388pf
C_C8 4 REF 0.3839990021393pf
L_L1 3 5 1.3201409689708nh
R_RL1 5 4 -6.382138599e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_10 1 2 3 4 REF
C_C1 1 REF 0.2701155455685pf
C_C2 1 2 22.307552668448pf
C_C3 1 4 0.2875087277708pf
C_C4 2 REF 0.5714035833833pf
C_C5 2 3 0.1236784408854pf
C_C6 3 REF 0.3883549631278pf
C_C7 3 4 0.1000582685705pf
C_C8 4 REF 0.3840204840927pf
L_L1 1 5 96.114194118649nh
R_RL1 5 2 6.3473791413744
L_L2 3 6 1.3206787642391nh
R_RL2 6 4 -6.717518409e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_11 1 2 3 4 REF
C_C1 1 REF 0.2573532081852pf
C_C2 1 2 24.430305032443pf
C_C3 1 4 0.310798053392pf
C_C4 2 REF 0.588790737872pf
C_C5 2 3 0.1308715852347pf
C_C6 3 REF 0.3883224098762pf
C_C7 3 4 0.0157007616569pf
C_C8 4 REF 0.3840235402876pf
L_L1 1 5 57.603163476417nh
R_RL1 5 2 4.8741346563511
L_L2 3 6 1.3210878946192nh
R_RL2 6 4 -6.544456119e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_12 1 2 3 4 REF
C_C1 1 REF 0.2393228361173pf
C_C2 1 2 27.375267761064pf
C_C3 1 4 0.3429979233398pf
C_C4 2 REF 0.6118389093187pf
C_C5 2 3 0.1410922325962pf
C_C6 3 REF 0.3882486970115pf
C_C7 4 REF 0.3840459634082pf
L_L1 1 5 32.435403143544nh
R_RL1 5 2 2.5003630184801
L_L2 3 6 1.3210523118745nh
R_RL2 6 4 -5.785781468e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_13 1 2 3 4 REF
C_C1 1 REF 0.2123518564354pf
C_C2 1 2 31.633574986587pf
C_C3 1 4 0.3893624837483pf
C_C4 2 REF 0.6435108424345pf
C_C5 2 3 0.1560933357165pf
C_C6 3 REF 0.3880946549699pf
C_C7 4 REF 0.3841354259729pf
L_L1 1 5 34.094154999939nh
R_RL1 5 2 -3.100072051246
L_L2 3 6 1.3207680921271nh
R_RL2 6 4 1.0024130461e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_14 1 2 3 4 REF
C_C1 1 REF 0.171006325049pf
C_C2 1 2 37.985518772962pf
C_C3 1 4 0.4582164354897pf
C_C4 2 REF 0.688936796215pf
C_C5 2 3 0.1786059783844pf
C_C6 3 REF 0.3878307098291pf
C_C7 4 REF 0.3843564827145pf
R_R1 1 2 -526.6032320584
L_L1 1 5 13.910708158027nh
R_RL1 5 2 1.9862823607309
L_L2 3 6 1.3202996977133nh
R_RL2 6 4 -2.769679304e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_15 1 2 3 4 REF
C_C1 1 REF 0.1030102872183pf
C_C2 1 2 48.2448439168pf
C_C3 1 4 0.5689281552251pf
C_C4 2 REF 0.7604198882102pf
C_C5 2 3 0.2149387143986pf
C_C6 3 REF 0.3874112015091pf
C_C7 4 REF 0.3848387016229pf
R_R1 1 2 -357.9897891964
L_L1 1 5 7.6200725119627nh
R_RL1 5 2 0.7999315089642
L_L2 3 6 1.3195050227983nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_16 1 2 3 4 REF
C_C1 1 2 68.051958437835pf
C_C2 1 4 0.7819362237656pf
C_C3 2 REF 0.8964253379545pf
C_C4 2 3 0.284819506311pf
C_C5 3 REF 0.3866917755523pf
C_C6 4 REF 0.3859682674395pf
R_R1 1 2 -240.2370146937
L_L1 1 5 3.3239621677392nh
R_RL1 5 2 0.2697843997892
L_L2 3 6 1.3179988515678nh
R_RL2 6 4 1.9869503816e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_17 1 2 3 4 REF
C_C1 1 2 115.77005680159pf
C_C2 1 4 1.2943325783533pf
C_C3 2 REF 1.2216994617517pf
C_C4 2 3 0.4527400064708pf
C_C5 3 REF 0.3852316783595pf
C_C6 4 REF 0.3890716645583pf
R_R1 1 2 -148.8331123871
L_L1 1 5 1.2920076028668nh
R_RL1 5 2 0.0841550711572
L_L2 1 6 58.192936748516nh
R_RL2 6 3 0.0508448049779
L_L3 1 7 57.453115226039nh
R_RL3 7 4 0.051208621383
L_L4 2 8 58.292564165104nh
R_RL4 8 3 0.0047345155587
L_L5 2 9 57.555827533458nh
R_RL5 9 4 0.0044262557677
L_L6 3 10 1.3144749184259nh
R_RL6 10 4 4.4747712458e-5
Kn_K1 L_L1 L_L2 0.0687570259281
Kn_K2 L_L1 L_L3 0.069019272871
Kn_K3 L_L1 L_L4 -0.080178188327
Kn_K4 L_L1 L_L5 -0.080868580349
Kn_K5 L_L2 L_L3 0.9886538684646
Kn_K6 L_L2 L_L4 0.9889087872677
Kn_K7 L_L2 L_L5 0.977469707618
Kn_K8 L_L2 L_L6 -0.117441564707
Kn_K9 L_L3 L_L4 0.9775333132865
Kn_K10 L_L3 L_L5 0.9887664191855
Kn_K11 L_L3 L_L6 0.0330630595264
Kn_K12 L_L4 L_L5 0.9886734828579
Kn_K13 L_L4 L_L6 -0.11716495392
Kn_K14 L_L5 L_L6 0.0332108774792
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_18 1 2 3 4 REF
C_C1 1 2 304.79963628843pf
C_C2 1 4 3.3242508895223pf
C_C3 2 REF 2.5062128453829pf
C_C4 2 3 1.1175219044834pf
C_C5 3 REF 0.3803172185899pf
C_C6 4 REF 0.4024029912619pf
R_R1 1 2 -71.0829238098
L_L1 1 5 42.854191958019nh
R_RL1 5 REF -0.021981566012
L_L2 1 6 0.3328259140468nh
R_RL2 6 2 0.0150909671678
L_L3 1 7 17.594219962873nh
R_RL3 7 3 0.0087770093276
L_L4 1 8 16.904742600592nh
R_RL4 8 4 0.0090301497305
L_L5 2 9 42.608190728343nh
R_RL5 9 REF -6.499662385e-3
L_L6 2 10 17.657347429171nh
R_RL6 10 3 0.0010538766923
L_L7 2 11 16.97203426904nh
R_RL7 11 4 8.8273964709e-4
L_L8 3 12 60.057282417047nh
R_RL8 12 REF -0.013692556558
L_L9 3 13 1.3006805894431nh
R_RL9 13 4 6.3170221817e-5
L_L10 4 14 59.358926363462nh
R_RL10 14 REF -0.013581125709
Kn_K1 L_L1 L_L2 0.0766326195168
Kn_K2 L_L1 L_L5 0.9961097125286
Kn_K3 L_L1 L_L8 0.8408671411793
Kn_K4 L_L1 L_L10 0.8457110468375
Kn_K5 L_L2 L_L3 0.055725615739
Kn_K6 L_L2 L_L4 0.0559728854661
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.081666277755
Kn_K9 L_L2 L_L7 -0.084174805932
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.962490216924
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9905601382068
Kn_K15 L_L3 L_L7 0.9527766275857
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.208011436086
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9530835183038
Kn_K21 L_L4 L_L7 0.9901773495511
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0651727478313
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8402355653252
Kn_K26 L_L5 L_L10 0.8450341117488
Kn_K27 L_L6 L_L7 0.9626284918288
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.207204804331
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0654865679883
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1130895800745
Kn_K35 L_L8 L_L10 0.9891249205609
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_19 1 2 3 4 REF
C_C1 1 REF 43.643797311615pf
C_C2 1 3 22.458856327935pf
C_C3 2 4 68.38911024006pf
C_C4 3 REF 0.5390304792985pf
R_R1 1 REF -152.4214951664
R_R2 1 2 1.0375949386511
R_R3 1 3 -295.2526009917
R_R4 1 4 96.468503621682
R_R5 2 REF 152.47417938712
R_R6 2 3 295.3800342031
R_R7 2 4 -96.50976577983
L_L1 1 5 1.3664654745425nh
R_RL1 5 REF -3.149332997e-5
L_L2 1 6 0.0535813665993nh
R_RL2 6 2 -0.041245896456
L_L3 1 7 1.1964476112131nh
R_RL3 7 3 -0.01227852824
L_L4 1 8 0.7294064090847nh
R_RL4 8 4 -0.028159028991
L_L5 2 9 1.4033802561597nh
R_RL5 9 REF -0.042746897922
L_L6 2 10 1.1932071078107nh
R_RL6 10 3 -8.47976496e-3
L_L7 2 11 0.7062606686104nh
R_RL7 11 4 -1.242331707e-3
L_L8 3 12 2.5537551873095nh
R_RL8 12 REF -0.013111742821
L_L9 3 13 0.9546285906935nh
R_RL9 13 4 -3.205430819e-3
L_L10 4 14 2.0912061214479nh
R_RL10 14 REF -0.029405890861
Kn_K1 L_L1 L_L2 0.0307971409567
Kn_K2 L_L1 L_L5 0.9807425721315
Kn_K3 L_L1 L_L8 0.7290410125495
Kn_K4 L_L1 L_L10 0.8069726826204
Kn_K5 L_L2 L_L3 0.1122100588143
Kn_K6 L_L2 L_L4 0.1940560323444
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.099546467556
Kn_K9 L_L2 L_L7 -0.078228110615
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0440061370633
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.5198265035251
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9775786776708
Kn_K16 L_L3 L_L7 0.4973688227028
Kn_K17 L_L3 L_L8 0.7791201717593
Kn_K18 L_L3 L_L9 -0.665127153501
Kn_K19 L_L3 L_L10 0.8624051106392
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.479409715961
Kn_K22 L_L4 L_L7 0.96280355061
Kn_K23 L_L4 L_L8 0.9978528556606
Kn_K24 L_L4 L_L9 0.29215980254
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.0165498686933
Kn_K27 L_L5 L_L8 0.7299943025944
Kn_K28 L_L5 L_L9 -0.010539212875
Kn_K29 L_L5 L_L10 0.8138182139497
Kn_K30 L_L6 L_L7 0.514620964616
Kn_K31 L_L6 L_L8 0.7916792019687
Kn_K32 L_L6 L_L9 -0.675355002304
Kn_K33 L_L6 L_L10 0.8825862775606
Kn_K34 L_L7 L_L8 1.0
Kn_K35 L_L7 L_L9 0.2847875969837
Kn_K36 L_L7 L_L10 1.0
Kn_K37 L_L8 L_L9 0.4538239917065
Kn_K38 L_L8 L_L10 0.7984495423745
Kn_K39 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_20 1 2 3 4 REF
C_C1 1 2 4586.1353682009pf
C_C2 1 4 49.310838145993pf
C_C3 2 REF 31.571839691125pf
C_C4 2 3 16.173503568482pf
C_C5 3 REF 0.2769950752886pf
C_C6 3 4 0.02211364768pf
C_C7 4 REF 0.7133661755365pf
R_R1 1 REF 188.18011527025
R_R2 1 2 -1.280707792631
R_R3 1 3 364.36103926526
R_R4 1 4 -119.0916500547
R_R5 2 REF -188.2682171173
R_R6 2 3 -364.5199513961
R_R7 2 4 119.1434787646
L_L1 1 5 1.5690602119835nh
R_RL1 5 REF 1.0e-5
L_L2 1 6 0.0103304690814nh
R_RL2 6 2 0.0017121339489
L_L3 1 7 1.3050016166273nh
R_RL3 7 3 5.6300200521e-4
L_L4 1 8 0.795352886403nh
R_RL4 8 4 0.0011458296874
L_L5 2 9 1.5582592186809nh
R_RL5 9 REF 0.0017200536757
L_L6 2 10 1.3063663560788nh
R_RL6 10 3 3.3248324004e-4
L_L7 2 11 0.8019926127854nh
R_RL7 11 4 5.7997522564e-5
L_L8 3 12 2.8622878021811nh
R_RL8 12 REF 5.6642515093e-4
L_L9 3 13 0.9909670148899nh
R_RL9 13 4 1.2711095886e-4
L_L10 4 14 2.3473046144614nh
R_RL10 14 REF 0.0011507319292
Kn_K1 L_L1 L_L2 0.0829888471168
Kn_K2 L_L1 L_L5 0.9967026462222
Kn_K3 L_L1 L_L8 0.7376165381563
Kn_K4 L_L1 L_L10 0.8131317204833
Kn_K5 L_L2 L_L3 0.0386091372014
Kn_K6 L_L2 L_L4 0.020358408376
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.050336783356
Kn_K9 L_L2 L_L7 -0.093220546325
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.026067643428
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.5444622985308
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9960441753198
Kn_K16 L_L3 L_L7 0.5378218776241
Kn_K17 L_L3 L_L8 0.808807045163
Kn_K18 L_L3 L_L9 -0.659787949129
Kn_K19 L_L3 L_L10 0.8916105186798
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.5423674421155
Kn_K22 L_L4 L_L7 0.9935413106328
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.2710771022069
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7372882385311
Kn_K27 L_L5 L_L10 0.8113853118731
Kn_K28 L_L6 L_L7 0.5458305842021
Kn_K29 L_L6 L_L8 0.8052387477978
Kn_K30 L_L6 L_L9 -0.657125139569
Kn_K31 L_L6 L_L10 0.8861648109509
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.2729111756509
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.4470893926832
Kn_K36 L_L8 L_L10 0.8137660954038
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_21 1 2 3 4 REF
C_C1 1 2 143.78329138633pf
C_C2 1 4 1.589264551829pf
C_C3 2 REF 1.4169510842289pf
C_C4 2 3 0.5516934082236pf
C_C5 3 REF 0.382382596364pf
C_C6 4 REF 0.3886006957735pf
R_R1 1 2 -122.5943970527
L_L1 1 5 74.206293785794nh
R_RL1 5 REF 0.0207323566378
L_L2 1 6 0.2328560861878nh
R_RL2 6 2 0.0109377107016
L_L3 1 7 22.053499463642nh
R_RL3 7 3 0.0068457132481
L_L4 1 8 21.330431919367nh
R_RL4 8 4 0.007026944569
L_L5 2 9 73.433618697127nh
R_RL5 9 REF 0.0337371516881
L_L6 2 10 22.226662143707nh
R_RL6 10 3 2.055805255e-4
L_L7 2 11 21.511897979336nh
R_RL7 11 4 1.5028557537e-4
L_L8 3 12 95.803602495311nh
R_RL8 12 REF 0.0298972937338
L_L9 3 13 1.3022481396298nh
R_RL9 13 4 -2.397799138e-5
L_L10 4 14 95.065267052417nh
R_RL10 14 REF 0.0300403804117
Kn_K1 L_L1 L_L2 0.1209487478412
Kn_K2 L_L1 L_L5 0.998436484227
Kn_K3 L_L1 L_L8 0.8773895549679
Kn_K4 L_L1 L_L10 0.880699248556
Kn_K5 L_L2 L_L3 0.0131708502334
Kn_K6 L_L2 L_L4 0.011529360582
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.089234992339
Kn_K9 L_L2 L_L7 -0.092560350472
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9701179176377
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9947489063253
Kn_K15 L_L3 L_L7 0.9646471737743
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.188963141594
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9651514674408
Kn_K21 L_L4 L_L7 0.9945737345504
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0549461553513
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8763551603882
Kn_K26 L_L5 L_L10 0.8796106782298
Kn_K27 L_L6 L_L7 0.9703561196313
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.187453932171
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0554983142365
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.0913453827008
Kn_K35 L_L8 L_L10 0.9931846936406
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_22 1 2 3 4 REF
C_C1 1 REF 0.1713505420886pf
C_C2 1 2 41.743584945232pf
C_C3 1 4 0.4944362110787pf
C_C4 2 REF 0.7311345407981pf
C_C5 2 3 0.1916276141218pf
C_C6 3 REF 0.3839242987583pf
C_C7 4 REF 0.3801942305077pf
L_L1 1 5 0.6420730582587nh
R_RL1 5 2 0.0065240023116
L_L2 1 6 79.554729383204nh
R_RL2 6 3 0.0132314284672
L_L3 1 7 78.622574089235nh
R_RL3 7 4 0.0137752513461
L_L4 2 8 80.498839489449nh
R_RL4 8 3 -1.095819851e-3
L_L5 2 9 79.574459743672nh
R_RL5 9 4 -4.868466049e-4
L_L6 3 10 1.3120633566698nh
R_RL6 10 4 -5.328692206e-5
Kn_K1 L_L1 L_L2 -0.021130267564
Kn_K2 L_L1 L_L3 -0.021802345754
Kn_K3 L_L1 L_L4 -0.110315441421
Kn_K4 L_L1 L_L5 -0.111498236736
Kn_K5 L_L2 L_L3 0.9917223305995
Kn_K6 L_L2 L_L4 0.9960057145654
Kn_K7 L_L2 L_L5 0.987670956122
Kn_K8 L_L2 L_L6 -0.109830956768
Kn_K9 L_L3 L_L4 0.9878367525322
Kn_K10 L_L3 L_L5 0.9959593375543
Kn_K11 L_L3 L_L6 0.0187024060751
Kn_K12 L_L4 L_L5 0.9918198965537
Kn_K13 L_L4 L_L6 -0.108806701563
Kn_K14 L_L5 L_L6 0.0189706928907
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_23 1 2 3 4 REF
C_C1 1 REF 0.3362689160852pf
C_C2 1 2 18.133387114975pf
C_C3 1 3 0.0273871620487pf
C_C4 1 4 0.2409146541815pf
C_C5 2 REF 0.5779513711985pf
C_C6 2 3 0.1070384963096pf
C_C7 3 REF 0.3833834652473pf
C_C8 4 REF 0.3772405025749pf
L_L1 1 5 1.0051968739323nh
R_RL1 5 2 2.6968193172e-4
L_L2 3 6 1.3129566875827nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_24 1 2 3 4 REF
C_C1 1 REF 0.3975433216881pf
C_C2 1 2 10.152384085922pf
C_C3 1 3 0.0603858518363pf
C_C4 1 4 0.1537773244247pf
C_C5 2 REF 0.5310518915273pf
C_C6 2 3 0.0770561112309pf
C_C7 3 REF 0.3822034085433pf
C_C8 4 REF 0.3751016905433pf
L_L1 1 5 1.4589784890196nh
R_RL1 5 2 7.5742625889e-5
L_L2 3 6 1.3108709085564nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_25 1 2 3 4 REF
C_C1 1 REF 0.428944614335pf
C_C2 1 2 6.8255678258183pf
C_C3 1 3 0.0790759937424pf
C_C4 1 4 0.1156974507966pf
C_C5 2 REF 0.5177449312791pf
C_C6 2 3 0.0621673820363pf
C_C7 2 4 0.0354163781363pf
C_C8 3 REF 0.3805319602129pf
C_C9 4 REF 0.372873271647pf
L_L1 1 5 1.8084909444412nh
R_RL1 5 2 4.8128204759e-4
L_L2 3 6 1.3083602746825nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_26 1 2 3 4 REF
C_C1 1 REF 0.443037383072pf
C_C2 1 2 5.7583267105986pf
C_C3 1 3 0.0890600665061pf
C_C4 1 4 0.1019535392765pf
C_C5 2 REF 0.5180172618756pf
C_C6 2 3 0.0552096295127pf
C_C7 2 4 0.0523415678518pf
C_C8 3 REF 0.3791564636633pf
C_C9 4 REF 0.3711941377709pf
L_L1 1 5 1.9186000983757nh
R_RL1 5 2 8.6945171364e-5
L_L2 3 6 1.3072592387193nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param55_26

